US05824691
A solution of methyl 4-hydroxy-3-(pyrrol-1-yl)benzoate (15.0 g), pyridine (8.4 ml) and acetic anhydride (9.8 ml) in dichloromethane (75 ml) was stirred for 15 hours at ambient temperature. To the reaction mixture was added the mixture of dichloromethane and water and the mixture was adjusted to pH 8 with 20% aqueous potassium carbonate solution. The separated organic layer was washed with 1N-hydrochloric acid and water respectively. The organic layer was dried over magnesium sulfate and evaporated in vacuo to give methyl 4-acetoxy-3-(pyrrol-1-yl)benzoate (15.9 g).

reactant | methyl 4-hydroxy-3-(pyrrol-1-yl)benzoate | 15.0 g | OC1=C(C=C(C(=O)OC)C=C1)N1C=CC=C1 | C12H11NO3
reactant | pyridine | 8.4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 9.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 4-acetoxy-3-(pyrrol-1-yl)benzoate | 15.9 g | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1)N1C=CC=C1 | C14H13NO4
